US07157464B2
Synthesis of 2-Chloro-1-[4-(4-chloro-phenyl)-piperazin-1-yl]-ethanone
Protocol S was followed using 1-(4-chloro-phenyl) piperazine, Et3N, chloroacetyl chloride and methylene chloride. Column chromatography using a solvent mixture (hexane/ethyl acetate=1.5/1) afforded the title compound as a white solid.

reactant | 1-(4-chloro-phenyl) piperazine | ClC1=CC=C(C=C1)N1CCNCC1 | C10H13ClN2
reactant | Et3N | CCN(CC)CC | C6H15N
reactant | chloroacetyl chloride | ClCC(=O)Cl | C2H2Cl2O
reactant | methylene chloride | C(Cl)Cl | CH2Cl2
solvent | hexane ethyl acetate | CCCCCC.C(C)(=O)OCC
product | 2-Chloro-1-[4-(4-chloro-phenyl)-piperazin-1-yl]-ethanone | ClCC(=O)N1CCN(CC1)C1=CC=C(C=C1)Cl | C12H14Cl2N2O
